US04923857
To a suspension of (2S)-2-carboxypyrrolidine (40 g) in a mixture of water (200 ml) and tetrahydrofuran (200 ml) was added a solution of allyl chloroformate (44 ml) in tetrahydrofuran (40 ml) at ° C. while adjusting pH to around 9 with 4N aqueous sodium hydroxide. After stirring at ° C. for 1 hour at pH 9, the aqueous layer was saturated with sodium chloride, and the mixture was diluted with ethyl acetate (200 ml). The aqueous layer was separated and washed with ethyl acetate. After adjusting pH to around 2 with 6N hydrochloric acid, the mixture was extracted with two portions of ethyl acetate (200 ml×2). The combined extract was dried over magnesium sulfate and evaporated in vacuo to give (2S)-1-allyloxycarbonyl-2-carboxypyrrolidine (72.49 g).

reactant | (2S)-2-carboxypyrrolidine | 40 g | C(=O)(O)[C@H]1NCCC1 | C5H9NO2
reactant | allyl chloroformate | 44 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-1-allyloxycarbonyl-2-carboxypyrrolidine | 72.49 g | C(C=C)OC(=O)N1[C@@H](CCC1)C(=O)O | C9H13NO4
